US07732432B2
To a solution of (11β,16β)-21-(acetyloxy)-9-fluoro-16-methyl-3,20-dioxo-11-[(trimethylsilyl)-oxy]pregna-1,4-dien-17-yl ethylcarbamate (138 mg, 0.239 mmol) in 2.5 mL of acetonitrile was added boron trifluoride etherate (0.12 mL, 0.96 mmol). After stirring at room temperature for 5 hours, additional boron trifluoride etherate (0.060 mL, 0.47 mmol) was added. The solution was stirred at room temperature for 15 hours more and was then partitioned between ethyl acetate and water. The organic layer was washed with water (twice) and brine and dried over Na2SO4. Filtration and evaporation under vacuum gave a pale yellow oil. Chromatography on silica gel eluting with hexane/ethyl acetate/dichloromethane/methanol (5:2:2:1) gave (11β,16β)-21-(acetyloxy)-9-fluoro-11-hydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl ethylcarbamate as a white film.

reactant | (11β,16β)-21-(acetyloxy)-9-fluoro-16-methyl-3,20-dioxo-11-[(trimethylsilyl)-oxy]pregna-1,4-dien-17-yl ethylcarbamate | 0.239 mmol, 138 mg | C(C)NC(O[C@]1(C(COC(C)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O[Si](C)(C)C)F)=O)C)=O | C30H44FNO7Si
reactant | boron trifluoride etherate | 0.96 mmol, 0.12 mL | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 0.47 mmol, 0.060 mL | B(F)(F)F.CCOCC
reactant | hexane ethyl acetate dichloromethane methanol | CCCCCC.C(C)(=O)OCC.ClCCl.CO
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | (11β,16β)-21-(acetyloxy)-9-fluoro-11-hydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl ethylcarbamate | C(C)NC(O[C@]1(C(COC(C)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)=O | C27H36FNO7
